US08309580B2
3-{methyl[(4-{[3-methyl-1-(2-methyl-5-phenylfuran-3-yl)butyl]amino}phenyl)carbonyl]amino}propanoic acid
Ethyl 3-{methyl[(4-{[3-methyl-1-(2-methyl-5-phenylfuran-3-yl)butyl]amino}phenyl)carbonyl]amino}propanoate (2.54 g) which is a synthetic intermediate in Example 125 was dissolved in ethanol-hexane (1:1, volume ratio), and the solution was subjected to HPLC using CHIRALPAK AD (50 mmID×500 mL, manufactured by DAICEL CHEMICAL INDUSTRIES, LTD.) and eluted with ethanol-hexane (1:1, volume ratio) as mobile phase at 30° C., a flow rate 60 mL/min. The fractions showing a peak with retention time 12 min was collected, and concentrated. The obtained amorphous compound (1.24 g) was dissolved in ethanol (5 mL) and tetrahydrofuran (5 mL), 1N lithium hydroxide (5.5 mL) was added, and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and water (20 mL) was added. The mixture was neutralized with 1N hydrochloric acid under ice-cooling, and stirred for 1 hr. The resulting precipitate was collected by filtration and dried to give the title compound (1.1 g, 97%).

reactant | Ethyl 3-{methyl[(4-{[3-methyl-1-(2-methyl-5-phenylfuran-3-yl)butyl]amino}phenyl)carbonyl]amino}propanoate | 2.54 g | CN(CCC(=O)OCC)C(=O)C1=CC=C(C=C1)NC(CC(C)C)C1=C(OC(=C1)C1=CC=CC=C1)C | C29H36N2O4
solvent | ethanol hexane | C(C)O.CCCCCC
product | 3-{methyl[(4-{[3-methyl-1-(2-methyl-5-phenylfuran-3-yl)butyl]amino}phenyl)carbonyl]amino}propanoic acid | 1.1 g, 97% | CN(CCC(=O)O)C(=O)C1=CC=C(C=C1)NC(CC(C)C)C1=C(OC(=C1)C1=CC=CC=C1)C | C27H32N2O4
